US09126998B2
rac-tert-Butyl (3-ethoxy-2-hydroxypropyl)carbamate
3 g of rac-1-amino-3-ethoxy-2-propanol hydrochloride (19.28 mmol, 1 equivalent) were initially charged in 40 ml of dichloromethane, and 5.7 ml of triethylamine (40.9 mmol, 2.1 equivalents) and then 4.96 ml of di-tert-butyl dicarbonate (21.6 mmol, 1.12 equivalents) were added. The reaction mixture was stirred at RT for 2 h, diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution and with saturated aqueous sodium chloride solution. The organic phase was dried with magnesium sulphate, filtered and concentrated. The residue was dried under high vacuum. This gave 3.73 g of crude product (88% of theory) which were reacted further without any work-up.

reactant | rac-1-amino-3-ethoxy-2-propanol hydrochloride | 19.28 mmol, 3 g, 1 equivalent | Cl.NCC(COCC)O
reactant | triethylamine | 40.9 mmol, 5.7 ml, 2.1 equivalents | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 21.6 mmol, 4.96 ml, 1.12 equivalents | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | rac-tert-Butyl (3-ethoxy-2-hydroxypropyl)carbamate | C(C)OCC(CNC(OC(C)(C)C)=O)O | C10H21NO4
